**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT tip106 1 2 3
* Model generated on Mar  7, 2004
* Model format: SPICE3
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model area=6.66588
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.9993 N=0.999993 XTI=2.99999
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.63364e-12 BF=201.645 NF=1.06537 VAF=68.5558
+IKF=0.190359 ISE=3.32582e-12 NE=1.43919 BR=0.992291
+NR=0.927972 VAR=102.813 IKR=0.0993102 ISC=9.99999e-14
+NC=1.99999 RB=16.4958 IRB=0.1 RBM=16.4958
+RE=0.154266 RC=1.75388 XTB=0.488452 XTI=2.99479 EG=1.05
+CJE=2.24104e-10 VJE=0.95 MJE=0.1 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.47942e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.63364e-12 BF=201.645 NF=1.06537 VAF=68.5558
+IKF=0.190359 ISE=3.32582e-12 NE=1.43919 BR=0.992291
+NR=0.927972 VAR=102.813 IKR=0.0993102 ISC=9.99999e-14
+NC=1.99999 RB=16.4958 IRB=0.1 RBM=16.4958
+RE=0.154266 RC=1.75388 XTB=0.488452 XTI=2.99479 EG=1.05
+CJE=2.24104e-10 VJE=0.95 MJE=0.1 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
