.SUBCKT tip107 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jan 20, 03
* MODEL FORMAT: SPICE3
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model area=10.2983
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.0012e-12 BF=116.055 NF=1.05819 VAF=92.7382
+IKF=0.149857 ISE=1.24495e-12 NE=1.70621 BR=0.999735
+NR=0.993731 VAR=100.194 IKR=0.0999992 ISC=1e-13
+NC=2 RB=10.3948 IRB=0.200382 RBM=10.1772
+RE=0.163782 RC=1.00023 XTB=0.505844 XTI=3.00058 EG=1.13482
+CJE=1.53127e-10 VJE=0.95 MJE=0.469947 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.51701e-10
+VJC=0.95 MJC=0.256722 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.0012e-12 BF=116.055 NF=1.05819 VAF=92.7382
+IKF=0.149857 ISE=1.24495e-12 NE=1.70621 BR=0.999735
+NR=0.993731 VAR=100.194 IKR=0.0999992 ISC=1e-13
+NC=2 RB=10.3948 IRB=0.200382 RBM=10.1772
+RE=0.163782 RC=1.00023 XTB=0.505844 XTI=3.00058 EG=1.13482
+CJE=1.53127e-10 VJE=0.95 MJE=0.469947 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.256722 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS tip107

